### PR TITLE
[Merged by Bors] - chore: redistribute some of the results in LinearAlgebra.Basic

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
This reduces the file from ~2600 lines to ~1600 lines.

---

- [x] depends on: #7925

Commits work individually. I have no strong attachment to any of these changes in particular, if there's better ways to organize the code.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by digama0** [comment]
Note: I have pushed an update to the lean toolchain because this PR was on a [buggy version](https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Potential.20data.20loss.20from.20.60lake.20clean.60.20with.204.2E2.2E0-rc2.2F3/near/397875701) of the toolchain. **WARNING**: checking out old commits of this PR using v4.2.0-rc2 or v4.2.0-rc3 can cause `lake clean` to delete your mathlib folder! If you need to do so, make sure to delete `lakefile.olean` manually before running any `lake` commands.

File: Mathlib/Algebra/Module/Submodule/LinearMap.lean [hunk 1]
```diff
@@ -0,0 +1,476 @@
...
+ See `LinearMap.applyₗ` for a version where `S = R`. -/
+@[simps]
+def applyₗ' : M →+ (M →ₗ[R] M₂) →ₗ[S] M₂ where
+  toFun v :=
+    { toFun := fun f => f v
+      map_add' := fun f g => f.add_apply g v
+      map_smul' := fun x f => f.smul_apply x v }
+  map_zero' := LinearMap.ext fun f => f.map_zero
+  map_add' _ _ := LinearMap.ext fun f => f.map_add _ _
+#align linear_map.applyₗ' LinearMap.applyₗ'
```
Comment (Vierkantor) [inline Mathlib/Algebra/Module/Submodule/LinearMap.lean:335]: This doesn't seem to involve submodules? It can probably go all the way to the basic linear map file. (This seems to hold for all changes in `c809cea5477043491f1363cc7ecfd43e7f7e8ed3`.)

File: Mathlib/Algebra/Module/Submodule/LinearMap.lean [hunk 2]
```diff
@@ -0,0 +1,476 @@
...
+
+variable [CommSemiring R] [AddCommMonoid M] [AddCommMonoid M₂] [AddCommMonoid M₃]
+
+variable [Module R M] [Module R M₂] [Module R M₃]
+
+variable (f g : M →ₗ[R] M₂)
+
+/-- Composition by `f : M₂ → M₃` is a linear map from the space of linear maps `M → M₂`
+to the space of linear maps `M₂ → M₃`. -/
+def compRight (f : M₂ →ₗ[R] M₃) : (M →ₗ[R] M₂) →ₗ[R] M →ₗ[R] M₃ where
```
Comment (Vierkantor) [inline Mathlib/Algebra/Module/Submodule/LinearMap.lean:374]: This doesn't seem to involve submodules either.

File: Mathlib/Algebra/Module/Submodule/LinearMap.lean [hunk 3]
```diff
@@ -0,0 +1,476 @@
...
+theorem compRight_apply (f : M₂ →ₗ[R] M₃) (g : M →ₗ[R] M₂) : compRight f g = f.comp g :=
+  rfl
+#align linear_map.comp_right_apply LinearMap.compRight_apply
+
+/-- Applying a linear map at `v : M`, seen as a linear map from `M →ₗ[R] M₂` to `M₂`.
+See also `LinearMap.applyₗ'` for a version that works with two different semirings.
+
+This is the `LinearMap` version of `toAddMonoidHom.eval`. -/
+@[simps]
+def applyₗ : M →ₗ[R] (M →ₗ[R] M₂) →ₗ[R] M₂ :=
```
Comment (Vierkantor) [inline Mathlib/Algebra/Module/Submodule/LinearMap.lean:390]: This one either.

File: Mathlib/Algebra/Module/Submodule/LinearMap.lean [hunk 4]
```diff
@@ -0,0 +1,476 @@
...
+@[simp]
+theorem domRestrict'_apply (f : M →ₗ[R] M₂) (p : Submodule R M) (x : p) :
+    domRestrict' p f x = f x :=
+  rfl
+#align linear_map.dom_restrict'_apply LinearMap.domRestrict'_apply
+
+/--
+The family of linear maps `M₂ → M` parameterised by `f ∈ M₂ → R`, `x ∈ M`, is linear in `f`, `x`.
+-/
+def smulRightₗ : (M₂ →ₗ[R] R) →ₗ[R] M →ₗ[R] M₂ →ₗ[R] M where
```
Comment (Vierkantor) [inline Mathlib/Algebra/Module/Submodule/LinearMap.lean:412]: This one either.

File: Mathlib/Algebra/Module/Submodule/LinearMap.lean [hunk 5]
```diff
@@ -0,0 +1,476 @@
...
+import Mathlib.Algebra.Module.Equiv
+import Mathlib.Algebra.Module.Submodule.Basic
+
+#align_import algebra.module.submodule.basic from "leanprover-community/mathlib"@"8130e5155d637db35907c272de9aec9dc851c03a"
+
+/-!
+
+# Linear maps involving submodules of a module
+
+In this file we define a number of linear maps involving submodules of a module.
```
Comment (Vierkantor) [inline Mathlib/Algebra/Module/Submodule/LinearMap.lean:16]: Could you add a list of important declarations in this file? I would nominate `subtype`, `domRestrict`, `restrict` and `ofLe`.

File: Mathlib/Algebra/Module/Submodule/LinearMap.lean [hunk 6]
```diff
@@ -0,0 +1,476 @@
...
+
+section
+
+variable {R : Type*} {R₁ : Type*} {R₂ : Type*} {R₃ : Type*} {R₄ : Type*}
+variable {S : Type*}
+variable {K : Type*} {K₂ : Type*}
+variable {M : Type*} {M' : Type*} {M₁ : Type*} {M₂ : Type*} {M₃ : Type*} {M₄ : Type*}
+variable {N : Type*} {N₂ : Type*}
+variable {ι : Type*}
+variable {V : Type*} {V₂ : Type*}
```
Comment (Vierkantor) [inline Mathlib/Algebra/Module/Submodule/LinearMap.lean:129]: We don't need all these variables, right, so could you only keep the necessary ones? Also for other files.

(It would be nice to have an "unused `variable` declaration" linter that figures this out for us!)

File: Mathlib/Algebra/Module/Submodule/Map.lean [hunk 7]
```diff
@@ -0,0 +1,466 @@
...
+Copyright (c) 2017 Johannes Hölzl. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Johannes Hölzl, Mario Carneiro, Kevin Buzzard, Yury Kudryashov, Frédéric Dupuis,
+  Heather Macbeth
+-/
+
+import Mathlib.Algebra.Module.Submodule.Lattice
+
+/-!
+# `map` and `comap` for `Submodule`s
```
Comment (Vierkantor) [inline Mathlib/Algebra/Module/Submodule/Map.lean:11]: Could you add a brief overview of this file to the documentation? I nominate mentioning: `map`, `comap`, `giMapComap` and `gciMapComap`.

**Review by Vierkantor — COMMENTED** [review]
Thank you for taking this on. It's very helpful to have the changes split into these chunks, thanks!

Looks like there's a missing import in `Mathlib/Topology/EMetricSpace/Basic.lean`.

**Comment by eric-wieser** [comment]
> Thank you for taking this on. It's very helpful to have the changes split into these chunks, thanks!

It might be worth splitting the PR into 3-5 pieces so that those chunks are preserved in the git history after everything is merged.

File: Mathlib/Algebra/Module/Submodule/LinearMap.lean (hunk 1 above)
Comment (Ruben-VandeVelde) [reply Mathlib/Algebra/Module/Submodule/LinearMap.lean]: `LinearMap.ringLmapEquivSelf` needed linear equivalences, so I moved it to `Mathlib/Algebra/Module/Equiv.lean`. 

`LinearMap.domRestrict'` does need submodules, so I left it in `Mathlib/Algebra/Module/Submodule/LinearMap.lean`.

Moved everything else.

**Comment by eric-wieser** [comment]
In particular,

> chore: move Submodule.{map,comap} to Algebra.Module.Submodule.Map

Looks like it would do well as a standalone PR

**Comment by Ruben-VandeVelde** [comment]
> In particular,
> 
> > chore: move Submodule.{map,comap} to Algebra.Module.Submodule.Map
> 
> Looks like it would do well as a standalone PR

I'll take a look

**Comment by Ruben-VandeVelde** [comment]
Happy to split up further if you give concrete suggestions :)

File: Mathlib/Algebra/Module/Submodule/Basic.lean [hunk 8]
```diff
@@ -365,29 +351,6 @@ instance noZeroSMulDivisors [NoZeroSMulDivisors R M] : NoZeroSMulDivisors R p :=
     this.imp_right (@Subtype.ext_iff _ _ x 0).mpr⟩
 #align submodule.no_zero_smul_divisors Submodule.noZeroSMulDivisors
 
-/-- Embedding of a submodule `p` to the ambient space `M`. -/
-protected def subtype : p →ₗ[R] M := by refine' { toFun := Subtype.val.. } <;> simp [coe_smul]
-#align submodule.subtype Submodule.subtype
```
Comment (eric-wieser) [inline Mathlib/Algebra/Module/Submodule/Basic.lean:370]: I'm not convinced by this split; for `Submonoid` and `Subgroup`, don't we define this map pretty immediately?

Comment (Ruben-VandeVelde) [reply Mathlib/Algebra/Module/Submodule/Basic.lean:370]: No for `Submonoid` (it's in `Mathlib.GroupTheory.Submonoid.Operations`) but yes for `Subgroup` (in `Mathlib.GroupTheory.Subgroup.Basic`. I felt this file had pretty heavy imports, but I'm also happy to revert this part.

File: Mathlib/Algebra/Module/Equiv.lean [hunk 9]
```diff
@@ -893,3 +893,29 @@ theorem toIntLinearEquiv_trans (e₂ : M₂ ≃+ M₃) :
...
+
+namespace LinearMap
+
+variable (R S M)
+variable [Semiring R] [Semiring S] [AddCommMonoid M] [Module R M]
+
+/-- The equivalence between R-linear maps from `R` to `M`, and points of `M` itself.
+This says that the forgetful functor from `R`-modules to types is representable, by `R`.
+
+This as an `S`-linear equivalence, under the assumption that `S` acts on `M` commuting with `R`.
```
Comment (Vierkantor) [inline Mathlib/Algebra/Module/Equiv.lean:905]: I suppose we might as well fix the docstring.
```suggestion
This is an `S`-linear equivalence, under the assumption that `S` acts on `M` commuting with `R`.
```

**Review by Vierkantor — COMMENTED** [review]
I'd like to try running a round of import reduction on the split results, so that `LinearAlgebra.Basic` might be replaced with one of its imports. Do you all think that I should do so as part of this PR or as a follow-up?

File: Mathlib/LinearAlgebra/Basic.lean [hunk 10]
```diff
@@ -168,174 +86,6 @@ variable [RingHomCompTriple σ₁₂ σ₂₃ σ₁₃] [RingHomCompTriple σ₂
...
-  ext x
-  have : Semiconj (↑) (f'.restrict h) f' := fun _ ↦ restrict_coe_apply _ _ _
-  simp [coe_pow, this.iterate_right _ _]
-#align linear_map.pow_restrict LinearMap.pow_restrict
-
-end
-
 /-- A linear map `f` applied to `x : ι → R` can be computed using the image under `f` of elements
 of the canonical basis. -/
 theorem pi_apply_eq_sum_univ [Fintype ι] [DecidableEq ι] (f : (ι → R) →ₗ[R] M) (x : ι → R) :
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Basic.lean:91]: Should this be moved to LinearAlgebra.Pi?

**Review by Vierkantor — APPROVED** [review]
Otherwise, I'm happy with this PR. If we want further splitting, let's do that in follow-up PRs. @eric-wieser, what do you think?

File: Mathlib/Algebra/Module/Submodule/Basic.lean (hunk 8 above)
Comment (eric-wieser) [reply Mathlib/Algebra/Module/Submodule/Basic.lean:370]: @Vierkantor, I'll let you make the call on this

**Comment by grunweg** [comment]
> I'd like to try running a round of import reduction on the split results, so that `LinearAlgebra.Basic` might be replaced with one of its imports. Do you all think that I should do so as part of this PR or as a follow-up?

FWIW, in #7920 I also put a [commit](https://github.com/leanprover-community/mathlib4/pull/7920/commits/258873c8f5dff6b9adbc191019027d4f25f81fe4) reducing the imports again, and the reviewer didn't mind. (I'm not a reviewer, though.)

File: Mathlib/Algebra/Module/Submodule/Basic.lean (hunk 8 above)
Comment (Vierkantor) [reply Mathlib/Algebra/Module/Submodule/Basic.lean:370]: My impression is that `Submodule.subtype` is not used too commonly, so I don't mind the split. This also means we don't have to import `LinearMap` when defining `Submodule` which is nice for combing the imports.

**Comment by Vierkantor** [comment]
I took the liberty of pushing the results of my minimizer script. We may have to fix some downstream imports.

**Comment by Vierkantor** [comment]
@eric-wieser I think this is ready to merge but I pushed some changes. Could you do a final review?

**Comment by fpvandoorn** [comment]
Merged master to see if that results in any CI issues.

This looks good to me, but I believe there is still an unanswered remark about moving `pi_apply_eq_sum_univ`

bors d+

**Comment by Ruben-VandeVelde** [comment]
bors r+

Thanks!
